US09315521B2
2-{[(4-chloro-1,3-thiazol-5-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol
A mixture of 5-(bromomethyl)-4-chloro-1,3-thiazole (8.4 mmol), 6-methyl-2-sulfanylpyrimidin-4-ol (850 mg, 6.0 mmol), and triethylamine (3.5 mL, 25 mmol) in absolute ethanol (45 mL) was stirred at room temperature overnight. The mixture was evaporated to dryness and then co-evaporated with EtOAc (20 mL). The residue was treated with water (100 mL). The solid material was recovered by filtration and washed with water (3×25 mL), diethyl ether (2×25 mL), and hexanes (2×25 mL). The solid material was dried in vacuo. The crude product was purified by flash chromatography (0-4% MeOH/DCM), affording the title compound (491 mg, 31% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.15 (s, 3H), 4.62 (s, 2H), 6.05 (s, 1H), 8.82 (s, 1H); M+274.

reactant | 5-(bromomethyl)-4-chloro-1,3-thiazole | 8.4 mmol | BrCC1=C(N=CS1)Cl | C4H3BrClNS
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 6.0 mmol, 850 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 25 mmol, 3.5 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 45 mL | C(C)O | C2H6O
product | 2-{[(4-chloro-1,3-thiazol-5-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 491 mg, 31% yield | ClC=1N=CSC1CSC1=NC(=CC(=N1)O)C | C9H8ClN3OS2
